data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_357195_1,[C:1]([C:3]([C:2]([O:8][H:12])([H:13])[H:14])([C:4](=[C:5]([H:16])[H:17])[H:15])[O:9][H:10])([O:6][H:11])=[O:7]>>[C:1]([C:2]([O:8][H:12])([H:13])[H:14])([C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])=[O:9])([O:6][H:11])[O:7][H:10],45.7265525000129
MR_138611_1,[C:1]([C:3]([H:17])([H:18])[H:19])(/[C:4]([O:7][H:10])=[N:8]/[C:2]([H:14])([H:15])[H:16])([C:5]([N:6]([H:12])[H:13])=[O:9])[H:11]>>[C:1](\[C:3]([H:17])([H:18])[H:19])(=[C:4](/[O:7][H:10])[N:8]([C:2]([H:14])([H:15])[H:16])[C:5]([N:6]([H:12])[H:13])=[O:9])[H:11],63.72450750001505
MR_445155_0,[C@@:1]([C:2](/[N:8]=[C:5](\[C:4]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12])([C:3]([H:14])([H:15])[H:16])([O:6][O:7][H:9])[H:10]>>[C@@:1]1([C:3]([H:14])([H:15])[H:16])([H:10])[C:2]([H:11])([H:12])[N:8]1[C@:5]([C:4]([H:17])([H:18])[H:19])([O:6][O:7][H:9])[H:13],66.18744500000318
MR_47553_0,[C:1]([C:4]([N:3]([C:2]([H:12])([H:13])[H:14])[H:7])=[O:6])([N:5]([H:8])[H:9])([H:10])[H:11]>>[C:1]([C:4]([N:3]([C:2]([H:12])([H:13])[H:14])[H:9])=[O:6])([N:5]([H:7])[H:8])([H:10])[H:11],38.84664249997641
MR_63353_0,[C:1]1([C:3]([H:13])([H:14])[H:15])([H:8])[C:2]([H:11])([H:12])[C:4]([H:16])([H:17])[C:5]1([N:6]([H:9])[H:10])[O:7][H:18]>>[C:1]([C:2]([C:4]([C:5]([N:6]([H:9])[H:10])=[O:7])([H:16])[H:17])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([H:8])[H:18],53.66191750002415
MR_485272_2,[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([H:13])[H:14])([C:4](/[C:5](=[N:7]\[H:11])[H:12])=[O:8])([O:6][H:9])[H:10]>>[C:1]([C:4]([C:2]([C:3]([H:15])([H:16])[H:17])([H:13])[H:14])=[O:8])(/[C:5](=[N:7]\[H:11])[H:12])([O:6][H:9])[H:10],68.52927500001172
MR_539840_1,[C:1]([C:3]([H:18])([H:19])[H:20])([C:4]([H:21])([H:22])[H:23])([C:5]([H:24])([H:25])[H:26])[N:6]([C:2]([H:15])([H:16])[H:17])/[C:7]([N:9]([H:13])[H:14])=[N:10]/[N:8]([H:11])[H:12]>>[C:1]([C:3]([H:18])([H:19])[H:20])([C:4]([H:21])([H:22])[H:23])([C:5]([H:24])([H:25])[H:26])[N:10](/[C:7](=[N:6]\[C:2]([H:15])([H:16])[H:17])[N:9]([H:13])[H:14])[N:8]([H:11])[H:12],62.59940000000213
MR_316387_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])([C:5]1([H:11])/[C:4](=[N:6]\[H:9])[N:7]1[H:10])[H:8]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])([C:4](/[C:5](=[N:7]\[H:10])[H:11])=[N:6]/[H:9])[H:8],57.6164224999917
MR_598479_2,[C:1]([N:5]([N:4]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])[H:9])([N:6]([H:11])[H:12])([O:7][H:8])[H:10]>>[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])([N:5]([N:6]([H:11])[H:12])[H:9])([O:7][H:8])[H:10],55.151602499972654
MR_85449_2,[C:1](/[N:7]=[C:5]([C:3](/[C:2]([H:15])([H:16])[H:17])=[C:6](/[N:4]([H:8])[H:9])[H:11])\[H:10])([H:12])([H:13])[H:14]>>[C:1]([N:7]1[C:5]([H:10])=[C:3]([C:2]([H:15])([H:16])[H:17])[C:6]1([N:4]([H:8])[H:9])[H:11])([H:12])([H:13])[H:14],40.3946849999916
MR_247381_1,[C:1](/[C:5](=[C:2]([C:4](=[N:7]\[N:3]([H:9])[H:10])/[H:11])\[O:6][H:8])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5]1([H:12])[C:2]([O:6][H:8])=[C:4]([H:11])[N:7]1[N:3]([H:9])[H:10])([H:13])([H:14])[H:15],44.62654500004362
MR_363100_0,[C:1]([N:3](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:7]\[H:9])/[N:5]=[N:6]/[H:8])([H:10])([H:11])[H:12]>>[C:1](/[N:3]=[N:5]/[N:6](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:7]\[H:9])[H:8])([H:10])([H:11])[H:12],35.370292500014386
MR_179121_1,[C:1]([C:4](=[C:3]([O:7][H:9])[O:8][H:10])[C:5]([C:2]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])([H:11])([H:12])[H:13]>>[C:1]([C:4]1=[C:5]([C:2]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[C:3]1([O:7][H:9])[O:8][H:10])([H:11])([H:12])[H:13],42.18431500000321
MR_680742_0,[C:1]([C:2]([C:5](=[O:9])[H:14])([O:7][H:11])[H:12])([C:3]([H:15])([H:16])[H:17])([C:4](=[O:8])[H:13])[O:6][H:10]>>[C:1]([C:2]([C:4](=[O:8])[H:13])([O:7][H:11])[H:12])([C:3]([H:15])([H:16])[H:17])([C:5](=[O:9])[H:14])[O:6][H:10],63.36118499996928
MR_152792_0,[C:1](/[C:4](=[C:3]([C:5](/[C:2]([H:17])([H:18])[H:19])=[N:8]/[H:13])\[N:6]([H:9])[H:10])[N:7]([H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1]([C@:4]1([N:7]([H:11])[H:12])[C:3]([N:6]([H:9])[H:10])=[C:5]([C:2]([H:17])([H:18])[H:19])[N:8]1[H:13])([H:14])([H:15])[H:16],38.30322749999297
MR_276630_2,[C:1]([N:3]([C:5](=[O:6])[H:11])[H:7])([N:4]([C:2]([H:12])([H:13])[H:14])[H:8])([H:9])[H:10]>>[C:1]([N:3]([N:4]([C:2]([H:12])([H:13])[H:14])[H:8])[H:7])([C:5](=[O:6])[H:11])([H:9])[H:10],61.98068499999479
MR_344476_2,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[C:6]1([O:9][H:10])[N:5]([N:7]([H:11])[H:12])[C:8]1([H:22])[H:23]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[C:6]([N:5]([N:7]([H:11])[H:12])[O:9][H:10])=[C:8]([H:22])[H:23],51.966412499988905
MR_595091_2,[C:1]([C:2]([O:7][C:5]([N:6]([H:11])[H:12])([O:8][H:10])[N:9]([H:13])[H:16])([H:14])[H:15])(=[C:3]([H:17])[H:18])[C:4]([H:19])([H:20])[H:21]>>[C:1]([C:2]([O:7]/[C:5]([N:6]([H:11])[H:12])=[N:9]/[H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[O:8][H:10],66.95048500000283
